US05614470
(e) 4'-Nitro-2-hydroxyacetophenone O-methyloxime
69 mg of O-methylhydroxylamine hydrochloride were added to a solution of 0.12 g (0.41 mmol) of 4'-nitro-2-t-butyldimethylsilyloxyacetophenone (obtained above) in a mixture of methanol (1.2 ml), 1,4-dioxane (2.0 ml) and water (2.0 ml). The resulting mixture was stirred for 1.5 hours at 80° C., then poured into water and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The residue was purified by silica gel column chromatography, eluted with a stepwise gradient of ethyl acetate (10-40%) in hexane, to give 58 mg (67% yield) of the title compound.

reactant | O-methylhydroxylamine hydrochloride | 69 mg | Cl.CON
reactant | 4'-nitro-2-t-butyldimethylsilyloxyacetophenone | 0.41 mmol, 0.12 g | [N+](=O)([O-])C1=CC=C(C=C1)C(CO[Si](C)(C)C(C)(C)C)=O | C14H21NO4Si
reactant | 1,4-dioxane | 2.0 ml | O1CCOCC1 | C4H8O2
reactant | water | 2.0 ml | O | H2O
solvent | methanol | 1.2 ml | CO | CH4O
product | 4'-Nitro-2-hydroxyacetophenone O-methyloxime | 58 mg, 67% yield | CON=C(CO)C1=CC=C(C=C1)[N+](=O)[O-] | C9H10N2O4
